US06034267
2 grams of 5-aminolevulinic acid hydrochloride was dissolved in 25 grams of dry n-hexanol with 5-6 drops of conc. hydrochloride added in a 50 ml glass reactor equipped with a reflux condenser and a thermometer. The reaction mixture was held at 50-60° C. for approx. 3 days. The excess n-hexanol was removed under vacuum and the product finally dried under high vacuum, giving 2.4 grams of n-hexyl 5-aminolevulinate hydrochloride. The structure was confirmed by 1H-NMR spectroscopy in DMSO-d6.

reactant | 5-aminolevulinic acid hydrochloride | 2 grams | Cl.NCC(CCC(=O)O)=O
reactant | n-hexanol | 25 grams | C(CCCCC)O | C6H14O
catalyst | hydrochloride | 5-6 drops | Cl | ClH
product | n-hexyl 5-aminolevulinate hydrochloride | 2.4 grams | Cl.NCC(CCC(=O)OCCCCCC)=O | InChI=1S/C11H21NO3.ClH/c1-2-3-4-5-8-15-11(14)7-6-10(13)9-12;/h2-9,12H2,1H3;1H
